US04413013
Following the procedure of Example 2, but substituting N,N'-dithiobis[N-isopropyl-p-chlorophenylsulfonamide] for N,N'-dithiobis[N-isopropyl-p-toluenesulfonamide], chlorine for sulfuryl chloride, and N-methyl-N'-2,4-xylylformamidine for N-methyl-N'-(2-chloro-o-tolyl)formamidine, the product is obtained. The product is recrystallized from SSB to give 10.0 g. (59% yield) of N-[[[N-2,4-xylylformimidoyl]methylamino]-thio]-N-isopropyl-p-chlorophenylsulfonamide as white crystals, mp. 93.5°-95°.

reactant | N,N'-dithiobis[N-isopropyl-p-toluenesulfonamide] | C(C)(C)N(S(=O)(=O)C1=CC=C(C=C1)C)SSN(S(=O)(=O)C1=CC=C(C=C1)C)C(C)C | C20H28N2O4S4
reactant | chlorine | ClCl | Cl2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N-methyl-N'-2,4-xylylformamidine | CNC=NC1=C(C=C(C=C1)C)C | C10H14N2
reactant | N-methyl-N'-(2-chloro-o-tolyl)formamidine | CNC=NC1(C(C=CC=C1)C)Cl | C9H13ClN2
product | N-[[[N-2,4-xylylformimidoyl]methylamino]-thio]-N-isopropyl-p-chlorophenylsulfonamide | 59% yield | C1(=C(C=C(C=C1)C)C)N=CCNSN(S(=O)(=O)C1=CC=C(C=C1)Cl)C(C)C | C19H24ClN3O2S2
